US05684033
Formic acid 9.0 ml, 238.540 mmoles) was added to a stirring solution of 3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)acetylamino]-2-(N-triphenylmethylamino)propane (14.11 g, 23.763 mmoles) in anhydrous methylene chloride under a nitrogen atmosphere at 0° C. After 4 hours, the reaction mixture was concentrated to an oil on a rotary evaporator and redissolved in diethyl ether and 1.0N hydrochloric acid. The aqueous layer was washed twice with diethyl ether and basified with sodium hydroxide to a pH greater than 12. The product was extracted out with methylene chloride (4×). The organic extracts were combined, dried over anhydrous sodium sulfate, filtered, and concentrated on a rotary evaporator to a white foam. The compound 2-amino-3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)acetylamino]propane (7.52 g, 21.397 mmols) was isolated giving a 90% yield. No further purification was necessary.

reactant | Formic acid | 238.540 mmoles, 9.0 ml | C(=O)O | CH2O2
reactant | 3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)acetylamino]-2-(N-triphenylmethylamino)propane | 23.763 mmoles, 14.11 g | N1C=C(C2=CC=CC=C12)CC(CNC(CCC1=C(C=CC=C1)OC)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H39N3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-amino-3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)acetylamino]propane | 21.397 mmols, 7.52 g, 90% yield | NC(CNC(CCC1=C(C=CC=C1)OC)=O)CC1=CNC2=CC=CC=C12 | C21H25N3O2
